US04073795
Alpha-acetamido-6-chloro-3-indoleacrylic acid
A 2-l. three-necked flask, equipped with thermometer mechanical stirrer and reflux condenser was charged with 90.4 g (0.31 moles) of alpha-acetamido-6-chloro-3-indoleacrylic acid methylester, 200 ml (0.40 moles) of 2N aqueous sodium hydroxide and 400 ml of methylalcohol. The mixture was stirred and heated at an internal temperature of 55°-58° for 90 minutes. 800 ml of distilled water was added and the brown slightly turbid solution filtered through a Buchner funnel. The clear filtrate was acidified with 90 ml (0.54 moles) of 6N aqueous hydrochloric acid. The precipitate was collected on a Buchner funnel and washed with distilled water. The wet cake was transferred into flask and suspended in 180 ml of dimethylformamide and 600 ml of methyl alcohol. The mixture was heated on a steam bath to reflux until a brown, slightly turbid solution was formed. 6 g of charcoal was added and reflux was continued for 10 minutes. The hot mixture was quickly filtered through a bed of Celite. The deep yellow, clear filtrate was transferred into a 2-l. flask, equipped with reflux-condenser and dropping funnel and brought again to reflux under an atmosphere of nitrogen. 240 ml of distilled water was added over a 5 minute period while reflux was maintained. The mixture was allowed to stand overnight under an atmosphere of nitrogen at room temperature. The product was collected by suction filtration, washed with methylalcohol-water 1:1 and dried at 85°/0.5 mmHg, to constant weight to give 78.6 g (86%) of product, as yellow crystals, m.p. 255°.

reactant | alpha-acetamido-6-chloro-3-indoleacrylic acid methylester | 0.31 moles, 90.4 g | COC(C(=CC1=CNC2=CC(=CC=C12)Cl)NC(C)=O)=O | C14H13ClN2O3
reactant | sodium hydroxide | 0.40 moles, 2N, 200 ml | [OH-].[Na+]
reactant | hydrochloric acid | 0.54 moles, 6N, 90 ml | Cl | ClH
reactant | charcoal | 6 g | C | CH4
solvent | water | 800 ml | O | H2O
solvent | methylalcohol | 400 ml | CO | CH4O
product | Alpha-acetamido-6-chloro-3-indoleacrylic acid | 78.6 g, 86% | C(C)(=O)NC(C(=O)O)=CC1=CNC2=CC(=CC=C12)Cl | C13H11ClN2O3
